US06294668B1
(E)-(6R,7R)-3-[1-[1-[(4-Hydroxy-phenylcarbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-7-(2-phenylsulfanylacetylamino)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate
With 70.0 mg (0.43 mmol) 1,1′-carbonyldiimidazole, 71.0 mg (0.43 mmol) 2-(phenylthio)acetic acid and 188.4 mg (0.29 mmol) (E)-(6R,7R)-7-amino-3-[1-[1-[(4-hydroxy-phenylcarbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate trifluoroacetate in 4 ml ml N,N-dimethylacetamide. The resulting solid was suspended in 6 ml water:acetonitrile (1:1) and HCl was added until all compound dissolved. After column chromatography on MCI gel (75-150μ, Mitsubishi Kasei Corporation) with a gradient of water:acetonitril (1:0, 4:1, 3:1, 2:1, 1:1) the organic solvent was stripped off at a rotary evaporator and the aqueous phase was freeze-dried.

reactant | 1,1′-carbonyldiimidazole | 0.43 mmol, 70.0 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(phenylthio)acetic acid | 0.43 mmol, 71.0 mg | C1(=CC=CC=C1)SCC(=O)O | C8H8O2S
reactant | (E)-(6R,7R)-7-amino-3-[1-[1-[(4-hydroxy-phenylcarbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate trifluoroacetate | 0.29 mmol, 188.4 mg | FC(C(=O)[O-])(F)F.N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)/C=C\1/C(N(CC1)CC1=CC=[N+](C=C1)CC(NC1=CC=C(C=C1)O)=O)=O
reactant | HCl | Cl | ClH
solvent | N,N-dimethylacetamide | 4 ml | CN(C(C)=O)C | C4H9NO
solvent | water acetonitrile | 6 ml | O.C(C)#N
product | (E)-(6R,7R)-3-[1-[1-[(4-Hydroxy-phenylcarbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-7-(2-phenylsulfanylacetylamino)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate | OC1=CC=C(C=C1)NC(=O)C[N+]1=CC=C(C=C1)CN1C(\C(\CC1)=C\C1=C(N2C([C@H]([C@H]2SC1)NC(CSC1=CC=CC=C1)=O)=O)C(=O)[O-])=O | C34H31N5O7S2
